US06028032
A mixture of methyl 3-cyclopropyl-3-oxo-2-phenylpropanoate (6.54 g) and ethyl 2-(N-methyleneamino)-2-methylpropanoate was heated under reflux in xylene in the presence of 5A molecular sieve (33 g) for 7 hours. The mixture was evaporated and purified by chromatography on silica gel, eluting with hexane/ethyl acetate (7:3) to give ethyl 2-(6-cyclopropyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (7.56 g), as an oil, NMR (CDCl3)δ 0.7-0.78(m,2H), 0.95-1.01(m,2H), 1.22(t,3H), 1.54(s,6H), 1.52-1.61(m,1H), 4.14(q,2H), 5.17(s,2H), 7.21-7.42(m,5H).

reactant | methyl 3-cyclopropyl-3-oxo-2-phenylpropanoate | 6.54 g | C1(CC1)C(C(C(=O)OC)C1=CC=CC=C1)=O | C13H14O3
reactant | ethyl 2-(N-methyleneamino)-2-methylpropanoate | C=NC(C(=O)OCC)(C)C | C7H13NO2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 2-(6-cyclopropyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 7.56 g | C1(CC1)C1=C(C(N(CO1)C(C(=O)OCC)(C)C)=O)C1=CC=CC=C1 | C19H23NO4
